US06025370
In 7 ml of toluene was suspended 0.70 g of ethyl 7-bromo-1-cyclopropyl-8-difluoromethoxy-1,4-dihydro-4-oxoquinoline-3-carboxylate, followed by adding thereto 3 ml of ethanol, 1.74 ml of a 2 M aqueous sodium carbonate solution, 0.80 g of (+)-1-methyl-2-trityliso-indoline-5-boronic acid and 0.05 g of bis(triphenyl-phosphine)palladium(II) chloride, and the resulting mixture was heated under reflux for 2 hours under a nitrogen atmosphere. The reaction mixture was added to a mixed solvent of 10 ml of ethyl acetate and 10 ml of water, and the organic layer was separated. The organic layer obtained was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then distilled under reduced pressure to remove the solvent. The resulting residue was purified by a column chromatography (eluent; n-hexane:ethyl acetate=1:1) to obtain 0.72 g of ethyl (+)-1-cyclopropyl-8-difluoromethoxy-7-(1-methyl-2-trityliso-indolin-5-yl)-1,4-dihydro-4-oxoquinoline-3-carboxylate as colorless crystals.

reactant | ethyl 7-bromo-1-cyclopropyl-8-difluoromethoxy-1,4-dihydro-4-oxoquinoline-3-carboxylate | 0.70 g | BrC1=CC=C2C(C(=CN(C2=C1OC(F)F)C1CC1)C(=O)OCC)=O | C16H14BrF2NO4
reactant | ethanol | 3 ml | C(C)O | C2H6O
reactant | sodium carbonate | 2 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | (+)-1-methyl-2-trityliso-indoline-5-boronic acid | 0.80 g | CC1N(CC2=CC(=CC=C12)B(O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H26BNO2
solvent | toluene | 7 ml | C1(=CC=CC=C1)C | C7H8
catalyst | bis(triphenyl-phosphine)palladium(II) chloride | 0.05 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 10 ml | O | H2O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | ethyl (+)-1-cyclopropyl-8-difluoromethoxy-7-(1-methyl-2-trityliso-indolin-5-yl)-1,4-dihydro-4-oxoquinoline-3-carboxylate | 0.72 g | C1(CC1)N1C=C(C(C2=CC=C(C(=C12)OC(F)F)C=1C=C2CN(C(C2=CC1)C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)OCC | C44H38F2N2O4
